US05498618
To a stirred and heated (25° C.) solution of 5 g of 4-amino-2-methoxy benzoic acid in 75 ml of 1,4-dioxane were added 6.9 g of grinded 1-iodo-2,5-pyrrolidinedione. The mixture was stirred in an oil bath at 105° C. for 3 hours. After the addition of 300 ml of water, the crystallized product was filtered off and dried, yielding 4.3 g (48.9%) of 4-amino-5-iodo-2-methoxybenzoic acid; mp. 180.6° C. (interm. 5).

reactant | 4-amino-2-methoxy benzoic acid | 5 g | NC1=CC(=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | 1-iodo-2,5-pyrrolidinedione | 6.9 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | 300 ml | O | H2O
solvent | 1,4-dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 4-amino-5-iodo-2-methoxybenzoic acid | 4.3 g, 48.9% | NC1=CC(=C(C(=O)O)C=C1I)OC | C8H8INO3
